US07625932B2
Preparation of 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester
Add 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.87 mL, 6.0 mmol) to 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.0 g, 3.0 mmol, prepared in prepared in Preparation 38), [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) complex with methylene chloride (1:1) (0.122 g, 0.15 mmol), and triethylamine (1.25 mL, 9.0 mmol) in acetonitrile and heat to reflux. After 3 hours, cool and pour into water. Extract with ethyl acetate. Wash the combined organics with water and brine, dry over magnesium sulfate, filter and concentrate under reduced pressure. Purify the residue by flash chromatography (silica gel), eluting with ethyl acetate:hexanes to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 4.33 (q, 2H), 3.84 (s, 3H), 2.80 (q, 2H), 1.40 (s, 12H), 1.46 (t, 3H), 1.22 (t, 3H).

reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.0 mmol, 0.87 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 3.0 mmol, 1.0 g | C(C)OC(=O)C=1N(C(=C(C1I)C#N)CC)C | C11H13IN2O2
reactant | methylene chloride | 0.15 mmol, 0.122 g | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 9.0 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1B1OC(C(O1)(C)C)(C)C)C#N)CC)C | C17H25BN2O4
